US09278910B2
To a stirring solution of tert-butyl 2-((4-(2-(4-bromophenyl)oxazol-4-yl)benzyl)amino)acetate INT-44 (220 mg, 0.496 mmol), 4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid (175 mg, 0.496 mmol) and DIEA (137 μl, 0.744 mmol) in DMF (4 mL) was added HATU (198 mg, 0.521 mmol). The reaction mixture was stirred at room temperature for 16 h then diluted with DCM (4 mL), stirred with NaHCO3 (15 mL) for 15 min, split through a hydrophobic frit and evaporated. The crude product was purified by column chromatography (acetonitrile/DCM) to gave 262 mg (68%) of tert-butyl 2-(N-(4-(2-(4-bromophenyl)oxazol-4-yl)benzyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)acetate INT-45 as an off-white solid. LCMS-ESI (m/z) calculated for C39H35BrF3N3O6: 777; found 778 [M+H]+, tR=3.20 min (Method 5).

reactant | tert-butyl 2-((4-(2-(4-bromophenyl)oxazol-4-yl)benzyl)amino)acetate | BrC1=CC=C(C=C1)C=1OC=C(N1)C1=CC=C(CNCC(=O)OC(C)(C)C)C=C1 | C22H23BrN2O3
reactant | 4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid | 0.496 mmol, 175 mg | COC1=CC(=C(C=C1)CC(=O)NC1=CC=C(C(=O)O)C=C1)C(F)(F)F | C17H14F3NO4
reactant | DIEA | 0.744 mmol, 137 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.521 mmol, 198 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(N-(4-(2-(4-bromophenyl)oxazol-4-yl)benzyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)acetate | 262 mg, 68% | BrC1=CC=C(C=C1)C=1OC=C(N1)C1=CC=C(CN(C(C2=CC=C(C=C2)NC(CC2=C(C=C(C=C2)OC)C(F)(F)F)=O)=O)CC(=O)OC(C)(C)C)C=C1 | C39H35BrF3N3O6
